US06794403B2
2-(3-tert-Butyl-4-hydroxyphenyl)-1,3-benzoxazol-6-ol
The title compound was prepared in substantially the same manner as described in Example 1, from 2,4-dimethoxyaniline, and 3-tert-butyl-4-methoxybenzoic acid and was obtained as a white solid, m.p. 220-222° C.; MS m/e 284 (M+H)+.

reactant | 2,4-dimethoxyaniline | COC1=C(N)C=CC(=C1)OC | C8H11NO2
reactant | 3-tert-butyl-4-methoxybenzoic acid | C(C)(C)(C)C=1C=C(C(=O)O)C=CC1OC | C12H16O3
product | 2-(3-tert-Butyl-4-hydroxyphenyl)-1,3-benzoxazol-6-ol | C(C)(C)(C)C=1C=C(C=CC1O)C=1OC2=C(N1)C=CC(=C2)O | C17H17NO3
